US05371093
[2-(4-Chlorobenzothiazolyl)][1-[2-(4-methoxyphenyl)ethyl]-4-piperidinyl]methanone
Mix [2-(4-chlorobenzothiazolyl)](4-piperidinyl)methanone.CF3CO2H (9.19 mmol), 2-(4methoxyphenyl)ethyl bromide (2.07 g, 9.64 mmol), potassium carbonate (3.33 g, 24.1 mmol) and dimethylformamide (35 mL) and heat at 90° C. overnight. Cool to room temperature and partition between a 2:1 mixture of ethyl acetate/toluene and water. Separate the aqueous phase and wash the organic phase with water and brine. Dry (MgSO4) and evaporate the solvent in vacuo. Purify by chromatography to give the title compound.

reactant | [2-(4-chlorobenzothiazolyl)](4-piperidinyl)methanone | ClC1=CC=CC2=C1N=C(S2)C2NCCC(C2)C=O | C13H13ClN2OS
reactant | CF3CO2H | 9.19 mmol | C(F)(F)(F)C(=O)O | C2HF3O2
reactant | 2-(4methoxyphenyl)ethyl bromide | 9.64 mmol, 2.07 g | COC1=CC=C(C=C1)CCBr | C9H11BrO
reactant | potassium carbonate | 24.1 mmol, 3.33 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 35 mL | CN(C=O)C | C3H7NO
product | [2-(4-Chlorobenzothiazolyl)][1-[2-(4-methoxyphenyl)ethyl]-4-piperidinyl]methanone | ClC1=CC=CC2=C1N=C(S2)C2N(CCC(C2)C=O)CCC2=CC=C(C=C2)OC | C22H23ClN2O2S
